US05187185
A 3.03 g (6.18 mmoles) portion of the 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-(2-cyanoethenyl)-3-trifluoromethylthio-4-cyano-5-chloropyrrole prepared above was treated with 467 mg (12.4 mmoles) of sodium borohydride in 250 mL of ethanol at room temperature for 16 hours. An additional 234 mg (6.18 mmoles) of sodium borohydride was then added in two equal portions over a two hour period to complete the reaction. The solvent was then removed under reduced pressure and the residue poured into 25 mL of ice water. The mixture was acidified with aqueous 6N HCl, extracted with dichloromethane (2×50 mL) and the organic extracts were partitioned with saturated aqueous NaHCO3 solution, dried over anhydrous MgSO4 and concentrated. The residue was chromatographed on silica gel eluting with 70/30 v/v dichloromethane-hexane to furnish 1.52 g (50%) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-(2-cyanoethyl)-3-trifluoromethylthio-4-cyano-5-chloropyrrole (ASE 196) as a white solid of melting point 150° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-(2-cyanoethenyl)-3-trifluoromethylthio-4-cyano-5-chloropyrrole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=C(C(=C1Cl)C#N)SC(F)(F)F)C=CC#N | C16H4Cl3F6N3S
reactant | sodium borohydride | 12.4 mmoles, 467 mg | [BH4-].[Na+]
reactant | sodium borohydride | 6.18 mmoles, 234 mg | [BH4-].[Na+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-(2-cyanoethyl)-3-trifluoromethylthio-4-cyano-5-chloropyrrole | 1.52 g, 50% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=C(C(=C1Cl)C#N)SC(F)(F)F)CCC#N | C16H6Cl3F6N3S
